US08124629B2
Zinc dust (30 g) was added in portions to a 5° C. solution of 2-nitro-4-trifluoromethyl-benzonitrile (3.0 g, 14 mmol) in glacial acetic acid (260 mL). The reaction mixture was allowed to warm to room temperature, then stirred at room temperature for 1 hour. The reaction mixture was filtered through a celite plug, and the celite layer was washed with glacial acetic acid. The combined filtrate and washings were concentrated to afford 2-amino-4-trifluoromethyl-benzonitrile as an oily, orange solid which was used in subsequent reactions without additional purification.

reactant | 2-nitro-4-trifluoromethyl-benzonitrile | 14 mmol, 3.0 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
solvent | acetic acid | 260 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 30 g | [Zn] | Zn
product | 2-amino-4-trifluoromethyl-benzonitrile | NC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H5F3N2
